* GraphGPT Generated Circuit 0
* Auto-generated from trained GraphGPT model

.title GraphGPT_Circuit_0

* Input voltage source
Vin 1 0 AC 1.0

* Circuit components
C1 0 2 15.7976pF
R1 0 2 22.877MegOhm
R2 1 2 4.02455MegOhm
R3 1 3 704.315Ohm
L1 2 3 80.0352kH

* AC Analysis from 1Hz to 100kHz
.ac dec 100 1 100k

* Output
.print ac v(2)

.end